US05650096
The 3-phthalimidocholestane (5.40 g, 9.75 mmol) was dissolved in 60 mL of methanol and anhydrous hydrazine (3.1 ml, 99 mmol) was added. The reaction mixture was stirred and heated at reflux under a nitrogen atmosphere for 4 hr. This mixture was then cooled to room temperature, 3.1 mL of concentrated HCl was added and the resulting mixture was heated at reflux overnight. Upon cooling to ambient temperature, 100 ml of diethyl ether and 50 ml of 1N NaOH were added (final pH of 10.1) and the layers were separated. The aqueous layer was extracted with 50 ml of diethyl ether and the combined organic fractions were filtered. The filtrate was concentrated in vacuo and the residue was purified by silica gel chromatography (chloroform/methanol 90/10) to give 2.24 g of 3-aminocholestane in 59% yield.

reactant | 3-phthalimidocholestane | 9.75 mmol, 5.40 g | C1(C=2C(C(N1C1CC3CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC1)C)C)=O)=CC=CC2)=O | C35H51NO2
reactant | hydrazine | 99 mmol, 3.1 ml | NN | H4N2
reactant | HCl | 3.1 mL | Cl | ClH
reactant | NaOH | 1N, 50 ml | [OH-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-aminocholestane | 2.24 g, 59% yield | NC1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
